* source FILTER
X_U1         0 N00962 N01227 N01229 N01171 uA741
V_V2         0 N01229 10
V_V1         N01227 0 10
V_V3         N011150 0 10
X_U2         0 N01635 N011150 N011453 N01764 uA741
V_V4         0 N011453 10
V_V6         N01589 0  
+SIN 0 0.1 1k 0 0 0
V_V7         N01459 0 -109mVdc
R_R1         N01459 N00962  1k TC=0,0 
R_R2         N01589 N00962  1k TC=0,0 
R_R3         N01171 N00962  1k TC=0,0 
R_R4         N01635 N01171  330 TC=0,0 
R_R5         N01764 N01635  1k TC=0,0 
C_C1         N01635 N01764  0.47u  TC=0,0 
