* source DAGEGR
V_V1         N00245 0 5Vdc
R_R1         N00245 N00252  120 TC=0,0 
R_R2         N00270 N00245  120 TC=0,0 
R_R3         0 N00252  121 TC=0,0 
R_R4         0 N00270  120 TC=0,0 
X_U1         0 N00819 N004632 N004633 N01373 uA741
V_V2         0 N004633 10
V_V3         N004632 0 10
R_R5         N00252 N00819  1k TC=0,0 
R_R6         N00832 N00819  1k TC=0,0 
V_V4         N00832 0  
+SIN 0 0.1 1k 0 0 0
X_U2         0 N01207 N010250 N010593 N01392 uA741
V_V5         N010250 0 10
V_V6         0 N010593 10
V_V7         N011500 0  
+SIN 0 0.1 1k 0 0 0
R_R7         N011500 N01207  1k TC=0,0 
R_R8         N01207 N00270  1k TC=0,0 
R_R9         N00819 N01373  1k TC=0,0 
R_R10         N01207 N01392  1k TC=0,0 
