* source INSTRUMENTATION
X_U1         N00680 N00699 N000702 N000703 N00806 uA741
V_V1         N000702 0 10
V_V2         0 N000703 10
V_V3         N002450 0 10
V_V4         0 N002713 10
X_U2         N00684 N00766 N002450 N002713 N00824 uA741
V_V5         N003890 0 10
X_U3         N00820 N00839 N003890 N004153 N00843 uA741
V_V6         0 N004153 10
R_R1         N00699 N00806  1k TC=0,0 
R_R2         N00766 N00699  200 TC=0,0 
R_R3         N00824 N00766  1k TC=0,0 
R_R4         N00820 N00806  1k TC=0,0 
R_R5         0 N00820  1k TC=0,0 
R_R6         N00839 N00824  1k TC=0,0 
R_R7         N00843 N00839  1k TC=0,0 
V_V7         N00684 0  
+SIN -2.358 0.1 1k 0 0 0
V_V8         N00680 0  
+SIN -2.368 0.1 1k 0 0 0
